US04390697
60 g of ethyl 4-(3-cyanopropyl)-piperazine-1-carboxylate were dissolved in a 10% w/w solution of ammonia in ethanol and 6 g of 5% rhodium on alumina were added thereto. The mixture was cooled to room temperature and filtered. The filtrate was evaporated to dryness under vacuum and the residual oil was distilled under reduced pressure to obtain 20 g of ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate with a boiling point of 126°-130° C. at 0.15 to 0.2 mm Hg.

reactant | ethyl 4-(3-cyanopropyl)-piperazine-1-carboxylate | 60 g | C(#N)CCCN1CCN(CC1)C(=O)OCC | C11H19N3O2
solvent | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
catalyst | rhodium on alumina | 6 g | [Rh] | Rh
product | ethyl 4-(4-aminobutyl)-piperazine-1-carboxylate | 20 g | NCCCCN1CCN(CC1)C(=O)OCC | C11H23N3O2
